US04863920
3.65 g (10 mmol) of (S)-11,12,13,13a-tetrahydro-1-iodo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one was heated to boiling under reflux for 1.5 hours with 1.26 g (15 mmol) of 2-methyl-3-butyn-2-ol, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 20 mg of copper(I) iodide in 30 ml of diethylamine. The reaction mixture was evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate. By recrystallization of the crude product from methanol and water there was obtained (S)-11,12,13,13a-tetrahydro-1-(3-hydroxy-3-methyl-1-butynyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 128°.

reactant | (S)-11,12,13,13a-tetrahydro-1-iodo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 10 mmol, 3.65 g | IC=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C14H12IN3O
reactant | 2-methyl-3-butyn-2-ol | 15 mmol, 1.26 g | CC(C)(C#C)O | C5H8O
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 20 mg | [Cu]I
product | (S)-11,12,13,13a-tetrahydro-1-(3-hydroxy-3-methyl-1-butynyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | OC(C#CC=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1)(C)C | C19H19N3O2
